US05693651
(3) methyl 2-bromo-3-[7-(5-ethyl-2-pyridylmethoxy)-3-quinolyl]propionate
In a mixture of acetone/methanol (5 mL/2 mL) was dissolved 3-amino-7-(5-ethyl-2-pyridylmethoxy)quinoline (680 mg, 2.43 mmol.), and to the resulting solution was added aqueous 47% hydrogen bromide (1.73 g). To the mixture was added aqueous sodium nitrite (189 mg (2.75 mmol.)/0.3 mL) under ice-chilling for 5 minutes, and methyl acrylate (1.33 mL, 14.9 mmol.) was added to the resulting mixture after it was stirred for 20 minutes. Cuprous oxide (23 mg) was added gradually to the mixture kept at 37° C. The mixture was then stirred for one hour at the same temperature. After the completion of reaction was confirmed, the solvent was distilled off under reduced pressure. To the residue were added ethyl acetate and aqueous concentrated ammonia, so that the aqueous phase was made to pH 7. The organic portion was recovered, washed with water, and dried over sodium sulfate. The solvent was distilled off under reduced pressure to give 790 mg of the desired compound as crude residue. The crude residue was subjected to the next step without further purification.

reactant | 3-amino-7-(5-ethyl-2-pyridylmethoxy)quinoline | 2.43 mmol, 680 mg | NC=1C=NC2=CC(=CC=C2C1)OCC1=NC=C(C=C1)CC | C17H17N3O
reactant | hydrogen bromide | 1.73 g | Br | BrH
reactant | sodium nitrite | 2.75 mmol, 0.3 mL, 189 mg | N(=O)[O-].[Na+]
reactant | methyl acrylate | 14.9 mmol, 1.33 mL | C(C=C)(=O)OC | C4H6O2
solvent | acetone methanol | 5 mL | CC(=O)C.CO
product | methyl 2-bromo-3-[7-(5-ethyl-2-pyridylmethoxy)-3-quinolyl]propionate | 790 mg | BrC(C(=O)OC)CC=1C=NC2=CC(=CC=C2C1)OCC1=NC=C(C=C1)CC | C21H21BrN2O3
